US08686184B2
5′-[(1R,2R)-2-Carboxy-1-(2-chlorobenzyl)-2-hydroxy-ethylcarbamoyl]-2′,3′-difluoro-biphenyl-2-carb oxylic Acid
5′,6′-Difluoro-biphenyl-2,3′-dicarboxylic acid 2-t-butyl ester (60 mg, 180 μmol, 1.0 eq.), (2R,3R)-3-amino-4-(2-chloro-phenyl)-2-hydroxy-butyric acid ethyl ester (46.3 mg, 180 μmol, 1.0 eq.), DIPEA (94 μL), and HATU (68.4 mg, 180 μmol) were combined in DCM (2 mL) and was stirred for 45 minutes at room temperature. The reaction was quenched with saturated NH4Cl and extracted with DCM, dried and evaporated. 1:1 DCM:TFA (0.5 mL each) was added and the mixture was stirred for 30 minutes. The solvent was evaporated under vacuum. THF (2 mL) and 10N NaOH (0.3 mL) were added and the mixture was stirred for 2 hours. The reaction was quenched with AcOH and the product was purified by preparative HPLC to yield the title compound (5.8 mg, 97% purity). MS m/z [M+H]+ calc'd for C24H18ClF2NO6, 490.08. found 491.

reactant | 5′,6′-Difluoro-biphenyl-2,3′-dicarboxylic acid 2-t-butyl ester | 180 μmol, 60 mg, 1.0 eq. | C(C)(C)(C)OC(=O)C=1C(=CC=CC1)C1=CC(=CC(=C1F)F)C(=O)O | C18H16F2O4
reactant | (2R,3R)-3-amino-4-(2-chloro-phenyl)-2-hydroxy-butyric acid ethyl ester | 180 μmol, 46.3 mg, 1.0 eq. | C(C)OC([C@@H]([C@@H](CC1=C(C=CC=C1)Cl)N)O)=O | C12H16ClNO3
reactant | DIPEA | 94 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 180 μmol, 68.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 5′-[(1R,2R)-2-Carboxy-1-(2-chlorobenzyl)-2-hydroxy-ethylcarbamoyl]-2′,3′-difluoro-biphenyl-2-carb oxylic Acid | 5.8 mg, 97% | C(=O)(O)[C@@H]([C@@H](CC1=C(C=CC=C1)Cl)NC(=O)C=1C=C(C(=C(C1)C=1C(=CC=CC1)C(=O)O)F)F)O | C24H18ClF2NO6
